US09216173B2
To a solution {6-[(tert-butoxycarbonyl)amino]pyridin-2-yl}methyl methanesulfonate (156 mg, 0.518 mmol) in acetonitrile (2.5 mL) was added N-methyl piperazine (103 mg, 1.03 mmol) and potassium carbonate (214 mg, 1.55 mmol) at room temperature. After 16 hours, the reaction mixture was quenched with saturated aqueous sodium bicarbonate, partially concentrated under reduced pressure, and then diluted with ethyl acetate. The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford tert-butyl {6-[(4-methylpiperazin-1-yl)methyl]pyridin-2-yl}carbamate that was used without further purification. MS ESI calc'd for C16H27N4O2 [M+H]+ 307. found 307.

reactant | {6-[(tert-butoxycarbonyl)amino]pyridin-2-yl}methyl methanesulfonate | 0.518 mmol, 156 mg | CS(=O)(=O)OCC1=NC(=CC=C1)NC(=O)OC(C)(C)C | C12H18N2O5S
reactant | N-methyl piperazine | 1.03 mmol, 103 mg | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 1.55 mmol, 214 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | tert-butyl {6-[(4-methylpiperazin-1-yl)methyl]pyridin-2-yl}carbamate | CN1CCN(CC1)CC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C16H26N4O2
